US04824843
A mixture of 2-amino-2-methyl-1-propanol, 7.2 g (0.05 mol), (Aldrich Chemical Company) and 4-methoxy-3-nitrobenzeneacetic acid, 16.7 g (0.079 mol), (Journal of the American Chemical Society, Vol. 70, pp. 2837-2843, (1948)) is refluxed overnight in xylene, 100 ml, under a water separator. The mixture is diluted with toluene, filtered, washed with an aqueous solution of potassium bicarbonate and water. The organic layer is separated and evaporated. The resulting gum is chromatographed over silica gel and eluted with ethyl acetate to give 7.6 g of 4,5-dihydro-2-[(4-methoxy-3-nitrophenyl)methyl]-4,4-dimethyloxazole after recrystallization from hexane; mp 88°-90° C.

reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
reactant | 4-methoxy-3-nitrobenzeneacetic acid | COC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C9H9NO5
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5-dihydro-2-[(4-methoxy-3-nitrophenyl)methyl]-4,4-dimethyloxazole | 7.6 g | COC1=C(C=C(C=C1)CC=1OCC(N1)(C)C)[N+](=O)[O-] | C13H16N2O4
